US07220856B2
Preparation of (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-N-cyclobutylhexahydro-2-oxo-1H-azepine-1-carboxamide
As described example 78, (3R)-3-amino-N-cyclobutylhexahydro-2-oxo-1H-azepine-1-carboxamide by de-protection of [(3S)-1-[(cyclobutylamino)carbonyl]hexahydro-2-oxo-1H-azepin-3-yl] carbamic acid-1,1-dimethylethyl ester with TFA, p-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product. 1HNMR (DMSO-d6): δ 1.24 (br. s, 1H), 1.5–1.9 (m, 7H), 2.2 (m, 2H), 2.99 (m, 4H), 3.6 (m, 4H), 4.17 (m, 1H), 4.52 (m, 1H), 4.66 (t, 1H), 6.14 (s, 1H, 6.42 (br. s, 1H), 6.8 (d, 1H), 7.1 (d, 1H), 7.39 (s, 1H), 7.76 (d, 1H), 9.3 (d, 1H).

reactant | (3R)-3-amino-N-cyclobutylhexahydro-2-oxo-1H-azepine-1-carboxamide | N[C@H]1C(N(CCCC1)C(=O)NC1CCC1)=O | C11H19N3O2
reactant | [(3S)-1-[(cyclobutylamino)carbonyl]hexahydro-2-oxo-1H-azepin-3-yl] carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(N[C@@H]1C(N(CCCC1)C(=O)NC1CCC1)=O)=O | C16H27N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-N-cyclobutylhexahydro-2-oxo-1H-azepine-1-carboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C(=O)NC1CCC1)=O)Cl | C25H32ClN7O3
